US08383629B2
7-chloro-2-methyl-1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)spiro[isoindoline-1,4′-piperidin]-3-one
The title compound was prepared following a procedure analogous to that described in Example 1 using 3-(2-(trifluoromethyl)phenyl)propanoic acid and 7-chloro-2-methylspiro[isoindoline-1,4′-piperidin]-3-one. LC-MS Method 1 tR=1.77, min, m/z=453, 451

reactant | 3-(2-(trifluoromethyl)phenyl)propanoic acid | FC(C1=C(C=CC=C1)CCC(=O)O)(F)F | C10H9F3O2
reactant | 7-chloro-2-methylspiro[isoindoline-1,4′-piperidin]-3-one | ClC=1C=CC=C2C(N(C3(CCNCC3)C12)C)=O | C13H15ClN2O
product | 7-chloro-2-methyl-1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)spiro[isoindoline-1,4′-piperidin]-3-one | ClC=1C=CC=C2C(N(C3(CCN(CC3)C(CCC3=C(C=CC=C3)C(F)(F)F)=O)C12)C)=O | C23H22ClF3N2O2
